US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide (I-77)
In a manner similar to that described in Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (I-43) and 3-(pyrrolidin-1-yl)propan-1-amine were converted to I-77 (6%) after purification by C-18 RP LC-MS chromatography. HRMS Calcd. for C28H32N6O4: 517.2563, Found 517.2552.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)C(=O)O)N1 | C21H18N4O5
reactant | 3-(pyrrolidin-1-yl)propan-1-amine | N1(CCCC1)CCCN | C7H16N2
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | N1(CCCC1)CCCNC(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1 | C28H32N6O4
